US20010018525A1
step 1 N-(6-phenylhexyl)-3-(4-methoxyphenyl)-5-(3-trifluoromethylphenyl)-4-(2-hydroxyethoxy)benzamide
The product was prepared as a yellow gum (0.191 g, 74%) from 3-(4-methoxyphenyl)-5-(3-trifluoromethylphenyl)4-(2-hydroxyethoxy)benzoic acid ethyl ester and 6-phenylhexylamine using a procedure similar to step 2 of example 1; 1H NMR (300 MHz, DMSO-d6) δ1.27-1.38 (m, 4H), 1.47-1.60 (m, 4H), 2.55 (t, J=7.5 Hz, 2H), 3.10 (q, J=7 Hz, 2H), 3.20-3.30 (m, 4H), 3.80 (s, 3H), 4.38 (t, J=6 Hz, 1H), 7.02-7.08 (m, 2H), 7.10-7.18 (m, 3H), 7.23-7.26 (m, 2H), 7.55-7.60 (m, 2H), 7.68-7.78 (m, 2H), 7.83-7.88 (m, 2H), 7.91-7.96 (m, 2H), 8.55 (t, J=4 Hz, 1H); mass spectrum [(+)ESI], m/z 592 (M+H)+.

reactant | 3-(4-methoxyphenyl)-5-(3-trifluoromethylphenyl)4-(2-hydroxyethoxy)benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C(=C1)C1=CC(=CC=C1)C(F)(F)F)OCCO)C1=CC=C(C=C1)OC)=O | C25H23F3O5
reactant | 6-phenylhexylamine | C1(=CC=CC=C1)CCCCCCN | C12H19N
product | N-(6-phenylhexyl)-3-(4-methoxyphenyl)-5-(3-trifluoromethylphenyl)-4-(2-hydroxyethoxy)benzamide | C1(=CC=CC=C1)CCCCCCNC(C1=CC(=C(C(=C1)C1=CC(=CC=C1)C(F)(F)F)OCCO)C1=CC=C(C=C1)OC)=O | C35H36F3NO4
